US06506751B1
Step 2: 2-(3-Fluorophenyl)-3-(3-morpholin-4-ylpropyl)-thiazolidin-4-one
3-(3-Chloropropyl)-2-(3-fluorophenyl)-thiazolidin-4-one (1.15 mm, 0.315 g) and morpholine (1.15 mm, 0.1 g) are mixed in 20 mL DMF in the presence of N,N-diisopropylethylamine (1.15 mm, 0.2 mL) and a catalytic amount of KI. The mixture is heated at 60° C. for 24 hours, then 20 mL of EtOAc is added to the mixture. The organic layer is washed with brine and dried. The solvent is evaporated, and the residue is triturated with hexane, 0.31 g of the product is isolated (84%).

reactant | 3-(3-Chloropropyl)-2-(3-fluorophenyl)-thiazolidin-4-one | 0.315 g | ClCCCN1C(SCC1=O)C1=CC(=CC=C1)F | C12H13ClFNOS
reactant | morpholine | 0.1 g | N1CCOCC1 | C4H9NO
reactant | N,N-diisopropylethylamine | 0.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(3-Fluorophenyl)-3-(3-morpholin-4-ylpropyl)-thiazolidin-4-one | 0.31 g | FC=1C=C(C=CC1)C1SCC(N1CCCN1CCOCC1)=O | C16H21FN2O2S
